datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:10]C(CCC)C([H])C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C(CCC)C([H])=C1O>>[O-:10]C(CCC)/C([H])=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)O[H])[H])CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])O[H])[H])CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)C([H])C(C)[O:10]1>>[O-:10]C(C)C([H])C(C)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)CC)CCCCCC>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)CC)CCCCCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)[H])C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S][H])[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S][H])[S][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O][H])[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O][H])[NH]CC 10=20;20,21=21"
"[O:10]([K])C(C)C(C)N([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([K])C(C)C(C)N1C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)CCCCCC)C1=CC=CC=C1>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)[H])[H]>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][S:10]C(C)C(CC)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])CC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CC)C 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)[H]>>CC1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]C 10=20;20,21=21"
"[H][S:10]C([H])C(C)C([H])[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C1=CC=CC=C1)C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]C 10=20;20,21=21"
"[H][O:10]C([H])C(C)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 21=20;20,10=10"
